US06660873B2
1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carbonitrile
A suspension of 1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic acid amide (13.6 g, 0.05 mole) in thionyl chloride (40 mL) and DMF (0.25 mL) was heated at reflux for 2 hours. The thionyl chloride was then evaporated, and the residue was dissolved in hot IPA (100 mL). On cooling, crystals of the title compound were formed. Yield: 7.8 g (62%). 1H NMR (d6-DMSO): δ 6.87 (s, 1H), 7.26 (t, 2H), 7.42 (dd, 2H), 7.58 (d, 1H), 8.18 (dd, 1H), 8.48 (s, 1H).

reactant | 1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic acid amide | 0.05 mole, 13.6 g | FC1=CC=C(C=C1)C1OC(C2=CC(=CC=C12)C(=O)N)=O | C15H10FNO3
solvent | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carbonitrile | FC1=CC=C(C=C1)C1OC(C2=CC(=CC=C12)C#N)=O | C15H8FNO2
